US07888362B2
By a similar method as in Example 1, 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2-ethyl-2H-isoquinolin-1-one was prepared from 7-(3-chloropropoxy)-2-ethyl-2H-isoquinolin-1-one, and after it was made into an ethyl acetate solution, 1N hydrochloric acid ethanol solution was added thereto, precipitated crystals were separated by filtration, recrystallized from ethyl acetate and thereby 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2-ethyl-2H-isoquinolin-1-one hydrochloride was obtained in the form of a white powder.

reactant | 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2-ethyl-2H-isoquinolin-1-one | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC=C1C=CN(C(C1=C2)=O)CC | C26H29N3O2S
reactant | 7-(3-chloropropoxy)-2-ethyl-2H-isoquinolin-1-one | ClCCCOC1=CC=C2C=CN(C(C2=C1)=O)CC | C14H16ClNO2
reactant | hydrochloric acid ethanol | 1N | C(C)O.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2-ethyl-2H-isoquinolin-1-one hydrochloride | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC=C1C=CN(C(C1=C2)=O)CC | InChI=1S/C26H29N3O2S.ClH/c1-2-28-12-9-20-7-8-21(19-23(20)26(28)30)31-17-4-11-27-13-15-29(16-14-27)24-5-3-6-25-22(24)10-18-32-25;/h3,5-10,12,18-19H,2,4,11,13-17H2,1H3;1H
